US07375113B2
To a solution of 4-{2-[4-(3-hydroxypropoxy)phenyl]-ethyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine (0.22 g) and triethylamine (0.056 mL) in dichloromethane (4 mL) was added methanesulfonyl chloride (0.025 mL) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4-{2-[4-(3-methanesulfonyloxy-propoxy)phenyl]ethyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine. This material was dissolved in a mixed solvent of acetonitrile (3 mL) and ethanol (3 mL). To the solution were added 2-amino-2-methylpropionamide (0.14 g) and a catalytic amount of sodium iodide, and the mixture was stirred at 60° C. for 3 days. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethylacetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol =20/1−10/1) to give 4-[2-(4-{3-[1-carbamoyl-1-(methyl)ethylamino]propoxy}phenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]-pyridine (0.12 g). This material was dissolved in methanol (6 mL). To the solution was added sodium methoxide (28% methanol solution, 0.077 mL), and the mixture was stirred at 50° C. overnight. To the reaction mixture was added acetic acid (0.034 mL), and the resulting mixture was concentrated under reduced pressure. The residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (62 mg).

reactant | 4-{2-[4-(3-hydroxypropoxy)phenyl]-ethyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | 0.22 g | OCCCOC1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C43H61N3O12
reactant | triethylamine | 0.056 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.025 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-{2-[4-(3-methanesulfonyloxy-propoxy)phenyl]ethyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | CS(=O)(=O)OCCCOC1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C44H63N3O14S
